US08431575B2
A stirred suspension of 4-(4-Benzyloxy-phenyl)-3-butyl-6-(piperidin-4-yloxy)-pyridazine dihydrochloride (0.34 mmol, 170 mg) and paraformaldehyde (6.1 mmol, 550 mg) in DCM was stirred for 20 min then sodiumtriacetoxyborohydride (6.1 mmol, 1.2 g) was added. Stirring was continued overnight. The solvent was evaporated and saturated NaHCO3 solution was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with water, brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The resultant product was purified by flash silica gel column chromatography using 5% methanolic solution of ammonia (2.0 M ammonia in methanol) in DCM to provide 4-(4-benzyloxy-phenyl)-3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazine.

reactant | 4-(4-Benzyloxy-phenyl)-3-butyl-6-(piperidin-4-yloxy)-pyridazine dihydrochloride | 0.34 mmol, 170 mg | Cl.Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OC1CCNCC1)CCCC
reactant | paraformaldehyde | 6.1 mmol, 550 mg | C=O | CH2O
reactant | sodiumtriacetoxyborohydride | 6.1 mmol, 1.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(4-benzyloxy-phenyl)-3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(N=NC(=C1)OC1CCN(CC1)C)CCCC | C27H33N3O2
